US07820693B2
Sodium hydride (440 mg, 11.01 mmol) and benzyl bromide (1.3 mL, 11.01 mmol) were added to 20 mL of a solution of pentaerythritol (500 mg, 3.67 mmol) in DMF, and the mixture was stirred at room temperature for 14 hours. Aqueous saturated ammonium chloride was added to the mixture, followed by extraction with ethyl acetate. The extract was washed with saturated saline and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to obtain 3-benzyloxy-2,2-bis(benzyloxymethyl)propan-1-ol (560 mg, 38%) as a colorless oil.

reactant | Sodium hydride | 11.01 mmol, 440 mg | [H-].[Na+]
reactant | benzyl bromide | 11.01 mmol, 1.3 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | pentaerythritol | 3.67 mmol, 500 mg | OCC(CO)(CO)CO | C5H12O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-benzyloxy-2,2-bis(benzyloxymethyl)propan-1-ol | 560 mg, 38% | C(C1=CC=CC=C1)OCC(CO)(COCC1=CC=CC=C1)COCC1=CC=CC=C1 | C26H30O4
